US05095013
(E)-3-[(2S,4S)-N-Allyloxycarbonyl-4-tritylthiopyrrolidin-2-yl]-N,N-dimethylacrylamide
The same operation as in Reference Example 4-1) was carried out by using (2S,4S)-N-allyloxycarbonyl-2-hydroxymethyl-4-tritylthiopyrrolidine (the compound obtained in Reference Example 3-1); 2.00 g, 4.35 mmol), dimethyl sulfoxide (0.87 ml, 12.2 mmol), oxalyl chloride (0.56 ml, 6.5 mmol), triethylamine (3.03 ml, 21 8 mmol), 2-(diethylphosphono)-N,N-dimethylacetamide (1.17 g, 5.22 mmol) and 60% sodium hydride (174 mg, 4.35 mmol), followed by flash column chromatographic purification on silica gel (Wakogel® C-300, 40 ml, elution with hexane-ethyl acetate 1 1) to give the title compound (2.02 g, 88.1% yield)

reactant | (2S,4S)-N-allyloxycarbonyl-2-hydroxymethyl-4-tritylthiopyrrolidine | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C28H29NO3S
reactant | dimethyl sulfoxide | 12.2 mmol, 0.87 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 6.5 mmol, 0.56 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 8 mmol, 3.03 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(diethylphosphono)-N,N-dimethylacetamide | 5.22 mmol, 1.17 g | C(C)OP(=O)(OCC)CC(=O)N(C)C | C8H18NO4P
reactant | sodium hydride | 4.35 mmol, 174 mg | [H-].[Na+]
product | (E)-3-[(2S,4S)-N-Allyloxycarbonyl-4-tritylthiopyrrolidin-2-yl]-N,N-dimethylacrylamide | 2.02 g, 88.1% yield | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)/C=C/C(=O)N(C)C | C32H34N2O3S
